US06281227B1
A. 2-(5-Chloro-thiophen-2-yl)-ethenesulfonic acid ethyl ester
n-Butyl lithium (1.6 mL of a 2.5 M solution in hexanes, 4.0 mmol) is added dropwise to a solution of ethyl diethylphosphorylmethanesulfonate (1.0 g, 3.8 mmol), prepared as described in Tetrahedron, 1987, 43(21), 5125, at −78° C. in THF (15 mL). The mixture is stirred for 20 min. then 5-chloro-2-thiophenecarboxaldehyde (0.45 mL, 4.2 mmol) is slowly added. The yellow mixture is stirred at −78° C. for 1 h then allowed to warm to room temperature overnight. The bulk of the solvents are evaporated and the residue is treated with water (2 mL) and extracted with CH2Cl2. The organic layer is washed with brine, dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with CH2Cl2 to give the title compound as a yellow solid.

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | ethyl diethylphosphorylmethanesulfonate | 3.8 mmol, 1.0 g | C(C)P(=O)(CC)CS(=O)(=O)OCC | C7H17O4PS
reactant | 5-chloro-2-thiophenecarboxaldehyde | 4.2 mmol, 0.45 mL | ClC1=CC=C(S1)C=O | C5H3ClOS
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(5-Chloro-thiophen-2-yl)-ethenesulfonic acid ethyl ester | C(C)OS(=O)(=O)C=CC=1SC(=CC1)Cl | C8H9ClO3S2
